US05300669
The following were charged to a 1 L roundbottom flask equipped with a stirrer and thermometer: 200 g 1.3-di(2-methylphenethyl)tetramethyldisiloxane as prepared in Example 3, 600 g 1,3-divinyltetramethyldisiloxane, and 5 g thoroughly dehydrated activated clay. This was followed by heating to 80° to 85° C. and stirring for 2 hours. The reaction mixture was then filtered and the filtrate was heated in vacuo to afford 160 g 1-(2-methylphenethyl)-3-vinyltetramethyldisiloxane.

reactant | 1.3-di(2-methylphenethyl)tetramethyldisiloxane | 200 g | CC1=C(CC[Si](O[Si](CCC2=C(C=CC=C2)C)(C)C)(C)C)C=CC=C1 | C22H34OSi2
reactant | 1,3-divinyltetramethyldisiloxane | 600 g | C(=C)[Si](O[Si](C=C)(C)C)(C)C | C8H18OSi2
product | 1-(2-methylphenethyl)-3-vinyltetramethyldisiloxane | 160 g | CC1=C(CC[Si](O[Si](C=C)(C)C)(C)C)C=CC=C1 | C15H26OSi2
